US09102673B2
Step 2: Ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-indole-2-carboxylate
The ethyl 5-bromo-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-indole-2-carboxylate (812 mg, 1.7 mmol), pinacol borane (873 mg, 3.4 mmol), X Phos (98 mg, 0.21 mmol) and KOAc (540 mg, 5.5 mmol) were combined in 8 mL of Dioxane. The mixture was degassed under vacuum and backfilled with N2. Palladium acetate (23 mg, 0.1 mmol) was added, and the mixture was degassed and back filled again. The mixture was left to stir overnight at 85° C. EtOAc was added and the mixture was filtered through a pad of celite, concentrated in vacuo, and purified on silica (0-30% EtOAc in hexanes) to give the title product (675 mg).

reactant | ethyl 5-bromo-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-indole-2-carboxylate | 1.7 mmol, 812 mg | BrC=1C=C2C=C(N(C2=CC1)CCOC1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC | C20H17BrF3NO4
reactant | pinacol borane | 3.4 mmol, 873 mg | B.OC(C)(C)C(C)(C)O
reactant | KOAc | 5.5 mmol, 540 mg | CC(=O)[O-].[K+]
solvent | Dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium acetate | 0.1 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-indole-2-carboxylate | 675 mg | CC1(OB(OC1(C)C)C=1C=C2C=C(N(C2=CC1)CCOC1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC)C | C26H29BF3NO6
